US04521413
A mixture of 4-chloropyridine hydrochloride (7.25 g), 5-mercapto-1H-tetrazole (4.93 g) and triethylamine (14.64 g) in dimethylformamide (120 ml) was stirred for one hour at 82° to 85° C. and then cooled in an ice bath. The resulting precipitates were removed by filtration and the filtrate was mixed with water (60 ml). The aqueous solution was adjusted to pH 2 with 2N hydrochloric acid and evaporated to dryness under reduced pressure. The residue was triturated in chloroform (300 ml) and the resulting precipitates were collected by filtration and washed with the same solvent. To the precipitates was added ethanol (650 ml) and an insoluble material was removed by filtration. The filtrate was evaporated to dryness to give 4-(1H-tetrazol-5-ylthio)pyridine (4.03 g), mp. 159° to 161° C. (dec.).

reactant | 4-chloropyridine hydrochloride | 7.25 g | Cl.ClC1=CC=NC=C1
reactant | 5-mercapto-1H-tetrazole | 4.93 g | SC1=NN=NN1 | CH2N4S
reactant | triethylamine | 14.64 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-(1H-tetrazol-5-ylthio)pyridine | 4.03 g | N1N=NN=C1SC1=CC=NC=C1 | C6H5N5S
